*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:44:09 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OAI22X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OAI22X4 B0 A1 B1 A0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET B0 9.33635e-16
*|P (B0 X 0 2.3000 0.8550)
*|I (Mmn2@1:g Mmn2@1 g X 0 2.1625 0.4050)
*|I (Mmp2@1:g Mmp2@1 g X 0 2.1625 1.1500)
*|I (Mmp2@2:g Mmp2@2 g X 0 2.6425 1.1500)
*|I (Mmp2@3:g Mmp2@3 g X 0 2.8475 1.1500)
*|I (Mmp2:g Mmp2 g X 0 3.2625 1.1500)
*|S (B0:7 2.8125 0.7375)
C1 Mmp2:g VSS 1.08431e-16
C2 Mmp2@3:g VSS 6.87409e-17
C3 Mmp2@2:g VSS 7.36754e-17
C4 Mmp2@1:g VSS 6.06639e-17
C5 Mmn2@1:g VSS 5.53167e-16
C6 B0:7 VSS 3.85465e-17
C7 B0 VSS 3.04103e-17
Rl1 Mmn2@1:g B0:7 3.822330 $W=0.109
Rl2 Mmp2@1:g Mmn2@1:g 91.076385 $W=0.039
Rl3 B0:7 Mmp2@2:g 123.106888 $W=0.039
Rl4 B0:7 Mmp2@3:g 85.035606 $W=0.039
Rl5 Mmn2@1:g Mmp2:g 163.400269 $W=0.039
Rk6 Mmn2@1:g B0 0.084066 $W=0.1
*
*|NET A1 7.02232e-16
*|P (A1 X 0 0.9000 0.8550)
*|I (Mmp1@1:g Mmp1@1 g X 0 0.7775 1.1500)
*|I (Mmp1@2:g Mmp1@2 g X 0 0.9825 1.1500)
*|I (Mmp1@3:g Mmp1@3 g X 0 1.4625 1.1500)
*|I (Mmp1:g Mmp1 g X 0 1.6675 1.1500)
C8 Mmp1:g VSS 6.7236e-17
C9 Mmp1@3:g VSS 3.69054e-17
C10 Mmp1@2:g VSS 7.73929e-17
C11 Mmp1@1:g VSS 5.85745e-17
C12 A1 VSS 4.62123e-16
Rl7 A1 Mmp1@1:g 24.795059 $W=0.039
Rl8 Mmp1@2:g A1 82.669495 $W=0.039
Rl9 A1 Mmp1@3:g 25.310791 $W=0.039
Rl10 Mmp1:g A1 106.513596 $W=0.039
*
*|NET B1 6.77404e-16
*|P (B1 X 0 2.7000 0.8550)
*|I (Mmp3@1:g Mmp3@1 g X 0 2.3325 1.1500)
*|I (Mmp3@2:g Mmp3@2 g X 0 2.5375 1.1500)
*|I (Mmp3@3:g Mmp3@3 g X 0 2.9525 1.1500)
*|I (Mmp3:g Mmp3 g X 0 3.1575 1.1500)
C13 Mmp3:g VSS 5.98972e-17
C14 Mmp3@3:g VSS 7.77661e-17
C15 Mmp3@2:g VSS 5.87884e-17
C16 Mmp3@1:g VSS 4.78602e-17
C17 B1 VSS 4.33092e-16
Rl11 B1 Mmp3@1:g 76.842377 $W=0.039
Rl12 B1 Mmp3@2:g 27.084648 $W=0.039
Rl13 B1 Mmp3@3:g 76.842377 $W=0.039
Rl14 B1 Mmp3:g 27.084648 $W=0.039
*
*|NET A0 8.47185e-16
*|P (A0 X 0 1.3000 0.6650)
*|I (Mmp0@1:g Mmp0@1 g X 0 0.6725 1.1500)
*|I (Mmp0@2:g Mmp0@2 g X 0 1.0875 1.1500)
*|I (Mmp0@3:g Mmp0@3 g X 0 1.2925 1.1500)
*|I (Mmp0:g Mmp0 g X 0 1.7925 1.1500)
C18 Mmp0:g VSS 7.45608e-17
C19 Mmp0@3:g VSS 5.5047e-17
C20 Mmp0@2:g VSS 7.00635e-17
C21 Mmp0@1:g VSS 1.17463e-16
C22 A0 VSS 5.3005e-16
Rl15 Mmp0@1:g A0 237.546326 $W=0.039
Rl16 A0 Mmp0@2:g 94.524414 $W=0.039
Rl17 Mmp0@3:g A0 141.128967 $W=0.039
Rl18 A0 Mmp0:g 93.463593 $W=0.039
*
*|NET Y 8.52902e-16
*|P (Y X 0 2.1000 1.2350)
*|I (Mmn2@1:d Mmn2@1 d X 0 2.2650 0.4050)
*|I (Mmp1@1:d Mmp1@1 d X 0 0.8800 1.1500)
*|I (Mmp1@3:d Mmp1@3 d X 0 1.5650 1.1500)
*|I (Mmp3@1:d Mmp3@1 d X 0 2.4350 1.1500)
*|I (Mmp3@3:d Mmp3@3 d X 0 3.0550 1.1500)
*|S (Y:9 1.9450 1.1250)
*|S (Y:10 1.5650 1.1250)
*|S (Y:12 2.1000 1.1250)
*|S (Y:13 0.8800 1.1250)
*|S (Y:16 2.4350 1.1550)
*|S (Y:18 3.0550 1.1600)
C23 Mmp3@3:d VSS 9.16236e-17
C24 Mmp3@1:d VSS 6.00684e-17
C25 Mmp1@3:d VSS 2.73352e-17
C26 Mmp1@1:d VSS 4.54055e-17
C27 Mmn2@1:d VSS 4.28144e-16
C28 Y:13 VSS 4.93058e-17
C29 Y:12 VSS 2.17413e-17
C30 Y:10 VSS 5.65884e-17
C31 Y:9 VSS 5.77502e-17
C32 Y VSS 1.49399e-17
Rk19 Y:10 Y:9 0.266123 $W=0.1
Rk20 Y:12 Y 0.038914 $W=0.13
Rk21 Y:12 Y:9 0.135200 $W=0.1
Rk22 Y:13 Y:10 0.450500 $W=0.09
Rk23 Y:16 Y:12 0.241855 $W=0.095
Rk24 Y:18 Y:16 0.434943 $W=0.09
Rk25 Y:9 Mmn2@1:d 0.617497 $W=0.08
Rk26 Y:13 Mmp1@1:d 31.043388 $W=0.2
Rk27 Y:10 Mmp1@3:d 31.040035 $W=0.2
Rk28 Y:16 Mmp3@1:d 62.000000 $W=0.095
Rk29 Y:18 Mmp3@3:d 20.666666 $W=0.09
*
*|NET net102 5.86433e-16
*|I (Mmn0@1:d Mmn0@1 d X 0 0.1100 0.4050)
C33 Mmn0@1:d VSS 5.86433e-16
*
*|NET 4 0
*|I (Mmp0@1:d Mmp0@1 d X 0 0.7250 1.1500)
*|I (Mmp1@1:s Mmp1@1 s X 0 0.7250 1.1500)
Rmw30 Mmp1@1:s Mmp0@1:d 0.001000 $W=1
*
*|NET 3 2.0348e-18
*|I (Mmp1@2:s Mmp1@2 s X 0 1.0350 1.1500)
*|I (Mmp0@2:d Mmp0@2 d X 0 1.0350 1.1500)
C34 Mmp1@2:s VSS 2.0348e-18
Rmw31 Mmp0@2:d Mmp1@2:s 0.001000 $W=1
*
*|NET 9 3.88442e-18
*|I (Mmp0@3:d Mmp0@3 d X 0 1.3775 1.1500)
*|I (Mmp1@3:s Mmp1@3 s X 0 1.3775 1.1500)
C35 Mmp0@3:d VSS 3.88442e-18
Rmw32 Mmp1@3:s Mmp0@3:d 0.001000 $W=1
*
*|NET 11 2.32514e-18
*|I (Mmp1:s Mmp1 s X 0 1.7300 1.1500)
*|I (Mmp0:d Mmp0 d X 0 1.7300 1.1500)
C36 Mmp1:s VSS 2.32514e-18
Rmw33 Mmp0:d Mmp1:s 0.001000 $W=1
*
*|NET 10 3.92748e-18
*|I (Mmp2@1:d Mmp2@1 d X 0 2.2475 1.1500)
*|I (Mmp3@1:s Mmp3@1 s X 0 2.2475 1.1500)
C37 Mmp2@1:d VSS 3.92748e-18
Rmw34 Mmp3@1:s Mmp2@1:d 0.001000 $W=1
*
*|NET 5 2.02598e-18
*|I (Mmp3@2:s Mmp3@2 s X 0 2.5900 1.1500)
*|I (Mmp2@2:d Mmp2@2 d X 0 2.5900 1.1500)
C38 Mmp3@2:s VSS 2.02598e-18
Rmw35 Mmp2@2:d Mmp3@2:s 0.001000 $W=1
*
*|NET 7 2.21173e-18
*|I (Mmp2@3:d Mmp2@3 d X 0 2.9000 1.1500)
*|I (Mmp3@3:s Mmp3@3 s X 0 2.9000 1.1500)
C39 Mmp2@3:d VSS 2.21173e-18
Rmw36 Mmp3@3:s Mmp2@3:d 0.001000 $W=1
*
*|NET 6 0
*|I (Mmp3:s Mmp3 s X 0 3.2100 1.1500)
*|I (Mmp2:d Mmp2 d X 0 3.2100 1.1500)
Rmw37 Mmp2:d Mmp3:s 0.001000 $W=1
*
*Instance Section
*
Mmn2@1	Mmn2@1:d	Mmn2@1:g	Mmn0@1:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0455P	PD=0.84U	PS=0.87U
+ M=4
+ fw=2.6e-07 sa=2e-06 sb=1.575e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn3@1	Mmn2@1:d	B1	Mmn0@1:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0416P	PD=0.84U	PS=0.84U	M=4
+ fw=2.6e-07 sa=2e-06 sb=1.37e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn0@1	Mmn0@1:d	A0	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0455P	AS=0.0806P	PD=0.87U	PS=1.35U	M=4
+ fw=2.6e-07 sa=1.4e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmn1	Mmn0@1:d	A1	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0416P	AS=0.0806P	PD=0.84U	PS=1.35U	M=4
+ fw=2.6e-07 sa=4.05e-07 sb=2e-06 sca=9.14564 scb=0.00759168 scc=0.000213449
Mmp0@1	Mmp0@1:d	Mmp0@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=1.4e-07 sb=2e-06 sca=19.2882 scb=0.0164375 scc=0.00159648
Mmp1@1	Mmp1@1:d	Mmp1@1:g	Mmp1@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=2.45e-07 sb=2e-06 sca=18.8494 scb=0.0161462 scc=0.00159619
Mmp1@2	Mmp1@1:d	Mmp1@2:g	Mmp1@2:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=4.5e-07 sb=2e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp0@2	Mmp0@2:d	Mmp0@2:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0624P	PD=0.9U	PS=1.1U
+ fw=3.9e-07 sa=5.55e-07 sb=2e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp0@3	Mmp0@3:d	Mmp0@3:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.04875P	AS=0.0624P	PD=1.03U	PS=1.1U
+ fw=3.9e-07 sa=7.6e-07 sb=2e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp1@3	Mmp1@3:d	Mmp1@3:g	Mmp1@3:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.04875P	PD=1.1U	PS=1.03U
+ fw=3.9e-07 sa=9.3e-07 sb=1.94e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp1	Mmp1@3:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.0312P	PD=1.1U	PS=0.94U
+ fw=3.9e-07 sa=1.135e-06 sb=1.735e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0312P	AS=0.14115P	PD=0.94U	PS=1.67U
+ fw=3.9e-07 sa=1.26e-06 sb=1.61e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp2@1	Mmp2@1:d	Mmp2@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.04875P	AS=0.14115P	PD=1.03U	PS=1.67U
+ fw=3.9e-07 sa=1.63e-06 sb=1.24e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp3@1	Mmp3@1:d	Mmp3@1:g	Mmp3@1:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.04875P	PD=1.1U	PS=1.03U
+ fw=3.9e-07 sa=1.8e-06 sb=1.07e-06 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp3@2	Mmp3@1:d	Mmp3@2:g	Mmp3@2:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=2e-06 sb=8.65e-07 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp2@2	Mmp2@2:d	Mmp2@2:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0624P	PD=0.9U	PS=1.1U
+ fw=3.9e-07 sa=2e-06 sb=7.6e-07 sca=18.3796 scb=0.0159892 scc=0.00159615
Mmp2@3	Mmp2@3:d	Mmp2@3:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0624P	PD=0.9U	PS=1.1U
+ fw=3.9e-07 sa=2e-06 sb=5.55e-07 sca=18.3986 scb=0.0159927 scc=0.00159615
Mmp3@3	Mmp3@3:d	Mmp3@3:g	Mmp3@3:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=2e-06 sb=4.5e-07 sca=18.6377 scb=0.0160565 scc=0.00159616
Mmp3	Mmp3@3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=2e-06 sb=2.45e-07 sca=19.4511 scb=0.0165805 scc=0.00159672
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0546P	PD=0.9U	PS=1.06U
+ fw=3.9e-07 sa=2e-06 sb=1.4e-07 sca=20.2277 scb=0.017479 scc=0.00160012
.ENDS
.END
