*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:46:39 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OAI32XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OAI32XL Y A2 B0 A1 A0 B1
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 1.60828e-16
*|P (Y X 0 1.1000 1.0450)
*|I (Mmn4:d Mmn4 d X 0 1.2700 0.4625)
*|I (Mmp2:d Mmp2 d X 0 1.0225 1.2225)
*|S (Y:2 1.1350 1.0450)
C1 Mmp2:d VSS 1.39763e-17
C2 Mmn4:d VSS 7.16589e-17
C3 Y:2 VSS 6.30424e-17
C4 Y VSS 1.21508e-17
Rk1 Y:2 Y 0.003054 $W=0.08
Rk2 Mmn4:d Y:2 75.494438 $W=0.09
Rk3 Y:2 Mmp2:d 62.101028 $W=0.09
*
*|NET A2 2.1357e-16
*|P (A2 X 0 0.7000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.7775 0.4625)
*|I (Mmp2:g Mmp2 g X 0 0.7775 1.2225)
*|S (A2:2 0.7400 0.7700)
*|S (A2:4 0.7400 0.7700)
C5 Mmp2:g VSS 3.7422e-17
C6 Mmn2:g VSS 3.26991e-17
C7 A2:2 VSS 1.09047e-16
C8 A2 VSS 3.44021e-17
Rl4 A2:2 Mmn2:g 76.155907 $W=0.039
Rl5 Mmp2:g A2:2 118.463600 $W=0.039
Rk6 A2 A2:4 0.053962 $W=0.1
Rk7 A2:2 A2:4 45.000000 $W=0.1
*
*|NET B0 2.20082e-16
*|P (B0 X 0 1.7000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 1.3725 0.4625)
*|I (Mmp3:g Mmp3 g X 0 1.4275 1.2225)
*|S (B0:2 1.4550 0.7150)
C9 Mmp3:g VSS 5.51486e-17
C10 Mmn3:g VSS 3.17754e-17
C11 B0:2 VSS 1.01327e-16
C12 B0 VSS 3.18311e-17
Rl8 B0:2 Mmn3:g 63.438728 $W=0.039
Rl9 Mmp3:g B0:2 136.333527 $W=0.039
Rk10 B0 B0:2 45.186741 $W=0.1
*
*|NET A1 2.55405e-16
*|P (A1 X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.5725 0.4625)
*|I (Mmp1:g Mmp1 g X 0 0.5725 1.2225)
*|S (A1:2 0.5300 0.8500)
*|S (A1:4 0.5300 0.8500)
C13 Mmp1:g VSS 4.28067e-17
C14 Mmn1:g VSS 4.58642e-17
C15 A1:2 VSS 5.96624e-17
C16 A1 VSS 1.07072e-16
Rl11 A1:2 Mmn1:g 106.925133 $W=0.039
Rl12 Mmp1:g A1:2 87.694366 $W=0.039
Rk13 A1 A1:4 0.003944 $W=0.48
Rk14 A1:2 A1:4 45.000000 $W=0.48
*
*|NET A0 2.02635e-16
*|P (A0 X 0 0.3000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.3675 0.4625)
*|I (Mmp0:g Mmp0 g X 0 0.3675 1.2225)
*|S (A0:2 0.3675 0.6700)
*|S (A0:3 0.3100 0.6700)
C17 Mmp0:g VSS 4.20825e-17
C18 Mmn0:g VSS 2.81681e-17
C19 A0:2 VSS 3.65335e-17
C20 A0:3 VSS 4.65206e-17
C21 A0 VSS 4.93304e-17
Rl15 A0:2 A0:3 46.230148 $W=0.114
Rl16 A0:2 Mmn0:g 46.956516 $W=0.039
Rl17 Mmp0:g A0:2 166.187286 $W=0.039
Rk18 A0 A0:3 0.223464 $W=0.1
*
*|NET B1 2.47593e-16
*|P (B1 X 0 1.5000 1.0450)
*|I (Mmn4:g Mmn4 g X 0 1.1675 0.4625)
*|I (Mmp4:g Mmp4 g X 0 1.2675 1.2225)
*|S (B1:2 1.2950 0.9600)
C22 Mmp4:g VSS 3.3925e-17
C23 Mmn4:g VSS 6.79869e-17
C24 B1:2 VSS 9.97296e-17
C25 B1 VSS 4.59516e-17
Rl19 B1:2 Mmn4:g 171.411270 $W=0.039
Rl20 Mmp4:g B1:2 46.845619 $W=0.039
Rk21 B1:2 B1 45.166309 $W=0.1
*
*|NET n0 2.69277e-16
*|I (Mmn0:d Mmn0 d X 0 0.4700 0.4625)
*|I (Mmn2:d Mmn2 d X 0 0.9725 0.4625)
*|I (Mmn3:s Mmn3 s X 0 1.4650 0.4625)
*|S (n0:3 0.8800 0.4500)
C26 Mmn3:s VSS 7.35465e-17
C27 Mmn2:d VSS 1.23605e-16
C28 Mmn0:d VSS 7.21257e-17
Rk22 n0:3 Mmn0:d 75.490578 $W=0.08
Rk23 Mmn2:d n0:3 75.000000 $W=0.09
Rk24 Mmn3:s n0:3 75.616776 $W=0.09
*
*|NET n1 7.42025e-18
*|I (Mmp0:d Mmp0 d X 0 0.4700 1.2225)
*|I (Mmp1:s Mmp1 s X 0 0.4700 1.2225)
C29 Mmp0:d VSS 7.42025e-18
Rmw25 Mmp1:s Mmp0:d 0.001000 $W=1
*
*|NET n2 0
*|I (Mmp1:d Mmp1 d X 0 0.6750 1.2225)
*|I (Mmp2:s Mmp2 s X 0 0.6750 1.2225)
Rmw26 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET n4 0
*|I (Mmp4:s Mmp4 s X 0 1.3475 1.2225)
*|I (Mmp3:d Mmp3 d X 0 1.3475 1.2225)
Rmw27 Mmp3:d Mmp4:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.145e-06 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn1	Mmn0:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0232P	PD=0.61U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=9.4e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.05003P	AS=0.0232P	PD=0.98U	PS=0.61U
+ fw=1.45e-07 sa=5.5e-07 sb=7.35e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn4	Mmn4:d	Mmn4:g	Mmn2:d	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.05003P	PD=0.61U	PS=0.98U
+ fw=1.45e-07 sa=9.4e-07 sb=3.45e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn3	Mmn4:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=1.145e-06 sb=1.4e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.2e-06 sca=15.8878 scb=0.0154804 scc=0.000305546
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0344P	PD=0.75U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=9.95e-07 sca=12.9037 scb=0.0106456 scc=0.000222738
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.09567P	AS=0.0344P	PD=1.32U	PS=0.75U
+ fw=2.15e-07 sa=5.5e-07 sb=7.9e-07 sca=11.8276 scb=0.00970062 scc=0.000220696
Mmp4	Mmp2:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.09567P	AS=0.02472P	PD=1.32U	PS=0.66U
+ fw=2.15e-07 sa=1.04e-06 sb=3e-07 sca=13.2535 scb=0.0110982 scc=0.000225
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02472P	AS=0.0301P	PD=0.66U	PS=0.71U
+ fw=2.15e-07 sa=1.2e-06 sb=1.4e-07 sca=15.7614 scb=0.0152558 scc=0.000298372
.ENDS
.END
