*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:47:11 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OAI33XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OAI33XL A1 B1 A0 Y B2 B0 A2
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A1 3.20024e-16
*|P (A1 X 0 0.5000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.4825 0.3075)
*|I (Mmp1:g Mmp1 g X 0 0.4825 1.3575)
*|S (A1:2 0.5100 0.8050)
*|S (A1:4 0.5050 0.8050)
C1 Mmp1:g VSS 7.73601e-17
C2 Mmn1:g VSS 5.09921e-17
C3 A1:4 VSS 2.54496e-17
C4 A1:2 VSS 8.96064e-17
C5 A1 VSS 7.66163e-17
Rl1 A1:2 Mmn1:g 150.691772 $W=0.039
Rl2 Mmp1:g A1:2 158.384079 $W=0.039
Rk3 A1:4 A1 0.029966 $W=0.1
Rk4 A1:2 A1:4 45.000000 $W=0.1
*
*|NET B1 3.17233e-16
*|P (B1 X 0 1.3000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 1.3175 0.3075)
*|I (Mmp3:g Mmp3 g X 0 1.3175 1.3575)
*|S (B1:2 1.2900 0.8500)
*|S (B1:4 1.2900 0.8500)
C6 Mmp3:g VSS 6.95468e-17
C7 Mmn3:g VSS 5.47641e-17
C8 B1:2 VSS 8.17109e-17
C9 B1 VSS 1.11211e-16
Rl5 B1:2 Mmn3:g 167.999466 $W=0.039
Rl6 Mmp3:g B1:2 141.076385 $W=0.039
Rk7 B1:4 B1 0.002997 $W=0.1
Rk8 B1:2 B1:4 45.000000 $W=0.1
*
*|NET A0 2.74342e-16
*|P (A0 X 0 0.1000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 0.2775 0.3075)
*|I (Mmp0:g Mmp0 g X 0 0.3775 1.3575)
*|S (A0:2 0.2500 0.7100)
C10 Mmp0:g VSS 9.01027e-17
C11 Mmn0:g VSS 4.00568e-17
C12 A0:2 VSS 1.18103e-16
C13 A0 VSS 2.60799e-17
Rl9 A0:2 Mmn0:g 109.410446 $W=0.039
Rl10 Mmp0:g A0:2 219.207962 $W=0.039
Rk11 A0:2 A0 45.087017 $W=0.1
*
*|NET Y 3.5851e-16
*|P (Y X 0 1.7000 1.0450)
*|I (Mmn5:d Mmn5 d X 0 1.2075 0.3075)
*|I (Mmn4:d Mmn4 d X 0 1.6150 0.3075)
*|I (Mmp2:d Mmp2 d X 0 0.9075 1.3575)
*|S (Y:2 1.6675 0.4550)
C14 Mmp2:d VSS 8.31576e-17
C15 Mmn4:d VSS 3.02292e-17
C16 Mmn5:d VSS 7.20292e-17
C17 Y:2 VSS 7.05625e-17
C18 Y VSS 1.02532e-16
Rk12 Y:2 Y 0.438978 $W=0.09
Rk13 Mmn5:d Y:2 75.371056 $W=0.08
Rk14 Y:2 Mmn4:d 75.057991 $W=0.155
Rk15 Y Mmp2:d 62.648643 $W=0.08
*
*|NET B2 2.52815e-16
*|P (B2 X 0 0.9000 0.8550)
*|I (Mmn5:g Mmn5 g X 0 1.0975 0.3075)
*|I (Mmp5:g Mmp5 g X 0 1.0975 1.3575)
*|S (B2:2 1.0700 1.0350)
C19 Mmp5:g VSS 3.4761e-17
C20 Mmn5:g VSS 5.8447e-17
C21 B2:2 VSS 1.16882e-16
C22 B2 VSS 4.27248e-17
Rl16 B2:2 Mmn5:g 239.153320 $W=0.039
Rl17 Mmp5:g B2:2 69.922539 $W=0.039
Rk18 B2:2 B2 45.201839 $W=0.1
*
*|NET B0 3.05517e-16
*|P (B0 X 0 1.5000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 1.5225 0.3075)
*|I (Mmp4:g Mmp4 g X 0 1.4425 1.3575)
*|S (B0:2 1.4700 0.6450)
*|S (B0:4 1.4700 0.6450)
C23 Mmp4:g VSS 7.46528e-17
C24 Mmn4:g VSS 3.66777e-17
C25 B0:2 VSS 1.94187e-16
Rl19 Mmn4:g B0:2 96.237938 $W=0.039
Rl20 B0:2 Mmp4:g 215.179672 $W=0.039
Rk21 B0:4 B0 0.008207 $W=0.48
Rk22 B0:2 B0:4 45.000000 $W=0.48
*
*|NET A2 2.63583e-16
*|P (A2 X 0 0.7000 0.8550)
*|I (Mmn2:g Mmn2 g X 0 0.7175 0.3075)
*|I (Mmp2:g Mmp2 g X 0 0.7175 1.3575)
*|S (A2:2 0.6900 0.8500)
*|S (A2:4 0.6900 0.8500)
C26 Mmp2:g VSS 3.94867e-17
C27 Mmn2:g VSS 4.58985e-17
C28 A2:2 VSS 6.12637e-17
C29 A2 VSS 1.16934e-16
Rl23 A2:2 Mmn2:g 167.999466 $W=0.039
Rl24 Mmp2:g A2:2 141.076385 $W=0.039
Rk25 A2:4 A2 0.002997 $W=0.1
Rk26 A2:2 A2:4 45.000000 $W=0.1
*
*|NET no 2.79851e-16
*|I (Mmn0:d Mmn0 d X 0 0.3800 0.3075)
*|I (Mmn2:d Mmn2 d X 0 0.9075 0.3075)
*|I (Mmn3:s Mmn3 s X 0 1.4200 0.3075)
*|S (no:3 0.8200 0.2950)
C30 Mmn3:s VSS 1.12001e-16
C31 Mmn2:d VSS 1.03367e-16
C32 Mmn0:d VSS 6.4483e-17
Rk27 Mmn0:d no:3 75.536575 $W=0.09
Rk28 Mmn2:d no:3 75.000000 $W=0.09
Rk29 no:3 Mmn3:s 75.570290 $W=0.075
*
*|NET n1 0
*|I (Mmp0:d Mmp0 d X 0 0.4300 1.3575)
*|I (Mmp1:s Mmp1 s X 0 0.4300 1.3575)
Rmw30 Mmp1:s Mmp0:d 0.001000 $W=1
*
*|NET n2 6.10291e-18
*|I (Mmp1:d Mmp1 d X 0 0.6000 1.3575)
*|I (Mmp2:s Mmp2 s X 0 0.6000 1.3575)
C33 Mmp1:d VSS 6.10291e-18
Rmw31 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET n4 2.97781e-19
*|I (Mmp5:s Mmp5 s X 0 1.2075 1.3575)
*|I (Mmp3:s Mmp3 s X 0 1.2075 1.3575)
C34 Mmp5:s VSS 2.97781e-19
Rmw32 Mmp3:s Mmp5:s 0.001000 $W=1
*
*|NET n3 0
*|I (Mmp3:d Mmp3 d X 0 1.3800 1.3575)
*|I (Mmp4:s Mmp4 s X 0 1.3800 1.3575)
Rmw33 Mmp4:s Mmp3:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.385e-06 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn1	Mmn0:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.02755P	PD=0.61U	PS=0.67U
+ fw=1.45e-07 sa=3.45e-07 sb=1.18e-06 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.04857P	AS=0.02755P	PD=0.96U	PS=0.67U
+ fw=1.45e-07 sa=5.8e-07 sb=9.45e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn5	Mmn5:d	Mmn5:g	Mmn2:d	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02537P	AS=0.04857P	PD=0.64U	PS=0.96U
+ fw=1.45e-07 sa=9.6e-07 sb=5.65e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn3	Mmn5:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02537P	AS=0.0232P	PD=0.64U	PS=0.61U
+ fw=1.45e-07 sa=1.18e-06 sb=3.45e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn4	Mmn4:d	Mmn4:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.385e-06 sb=1.4e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.0301P	PD=0.55U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.205e-06 sca=14.5245 scb=0.0130308 scc=0.000155148
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.0129P	PD=0.81U	PS=0.55U
+ fw=2.15e-07 sa=2.45e-07 sb=1.1e-06 sca=12.6898 scb=0.00990074 scc=9.48225e-05
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.07203P	AS=0.04085P	PD=1.1U	PS=0.81U
+ fw=2.15e-07 sa=4.8e-07 sb=8.65e-07 sca=10.9418 scb=0.00782693 scc=8.41447e-05
Mmp5	Mmp2:d	Mmp5:g	Mmp5:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.07203P	AS=0.03763P	PD=1.1U	PS=0.78U
+ fw=2.15e-07 sa=8.6e-07 sb=4.85e-07 sca=11.0076 scb=0.00787274 scc=8.41904e-05
Mmp3	Mmp3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0172P	AS=0.03762P	PD=0.59U	PS=0.78U
+ fw=2.15e-07 sa=1.08e-06 sb=2.65e-07 sca=12.6898 scb=0.00990074 scc=9.48225e-05
Mmp4	VDD	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0172P	PD=0.71U	PS=0.59U
+ fw=2.15e-07 sa=1.205e-06 sb=1.4e-07 sca=15.0399 scb=0.0139456 scc=0.00018525
.ENDS
.END
