*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:47:35 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "OR2X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  OR2X4 A Y B
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 3.01773e-16
*|P (A X 0 0.5000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.4675 0.3600)
*|I (Mmp0:g Mmp0 g X 0 0.4675 1.2100)
*|S (A:2 0.4950 0.8000)
C1 Mmp0:g VSS 8.11099e-17
C2 Mmn0:g VSS 5.16527e-17
C3 A:2 VSS 1.16627e-16
C4 A VSS 5.2384e-17
Rl1 A:2 Mmn0:g 106.460999 $W=0.039
Rl2 Mmp0:g A:2 69.922539 $W=0.039
Rk3 A:2 A 45.133560 $W=0.112
*
*|NET Y 4.90475e-16
*|P (Y X 0 1.3000 0.6650)
*|I (Mmn2:d Mmn2 d X 0 0.7900 0.3600)
*|I (Mmp2:d Mmp2 d X 0 0.7900 1.2100)
C5 Mmp2:d VSS 2.51797e-16
C6 Mmn2:d VSS 2.05425e-16
C7 Y VSS 3.32539e-17
Rk4 Mmn2:d Y 0.102453 $W=0.1
Rk5 Mmp2:d Y 0.146826 $W=0.1
*
*|NET B 2.81078e-16
*|P (B X 0 0.1000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.2625 0.3600)
*|I (Mmp1:g Mmp1 g X 0 0.3625 1.2100)
*|S (B:2 0.2625 0.6600)
*|S (B:3 0.1900 0.6600)
C8 Mmp1:g VSS 8.72406e-17
C9 Mmn1:g VSS 3.46982e-17
C10 B:2 VSS 4.61345e-17
C11 B:3 VSS 5.50631e-17
C12 B VSS 5.79419e-17
Rl6 B:2 B:3 52.351101 $W=0.094
Rl7 B:2 Mmn1:g 50.663235 $W=0.039
Rl8 Mmp1:g B:2 156.077591 $W=0.039
Rk9 B:3 B 0.131573 $W=0.095
*
*|NET n0 6.43722e-16
*|I (Mmn1:d Mmn1 d X 0 0.3650 0.3600)
*|I (Mmn2:g Mmn2 g X 0 0.6875 0.3600)
*|I (Mmp1:d Mmp1 d X 0 0.2700 1.2100)
*|S (n0:14 0.3750 0.6200)
C13 Mmp1:d VSS 9.93077e-17
C14 Mmn2:g VSS 3.89933e-16
C15 Mmn1:d VSS 4.91919e-17
C16 n0:14 VSS 1.0529e-16
Rk10 n0:14 Mmn1:d 37.694195 $W=0.08
Rk11 n0:14 Mmn2:g 0.385724 $W=0.0725
Rk12 n0:14 Mmp1:d 21.071636 $W=0.07
*
*|NET n1 1.04006e-18
*|I (Mmp1:s Mmp1 s X 0 0.4150 1.2100)
*|I (Mmp0:d Mmp0 d X 0 0.4150 1.2100)
C17 Mmp1:s VSS 1.04006e-18
Rmw13 Mmp0:d Mmp1:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0364P	PD=0.84U	PS=0.8U
+ fw=2.6e-07 sa=1.4e-07 sb=1.195e-06 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn0	Mmn1:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0455P	PD=0.84U	PS=0.87U
+ fw=2.6e-07 sa=3.45e-07 sb=9.9e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04323P	PD=0.84U	PS=0.8525U	M=4
+ fw=2.6e-07 sa=5.65e-07 sb=7.7e-07 sca=7.84363 scb=0.00546499 scc=9.84911e-05
Mmp1	Mmp1:d	Mmp1:g	Mmp1:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0234P	PD=1.06U	PS=0.9U
+ fw=3.9e-07 sa=1.4e-07 sb=1.095e-06 sca=18.2281 scb=0.0183524 scc=0.000740229
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.06825P	PD=0.9U	PS=1.13U
+ fw=3.9e-07 sa=2.45e-07 sb=9.9e-07 sca=16.2105 scb=0.0148596 scc=0.000661709
Mmp2	Mmp2:d	Mmn2:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06484P	PD=1.1U	PS=1.1125U	M=4
+ fw=3.9e-07 sa=4.65e-07 sb=7.7e-07 sca=14.5024 scb=0.0125934 scc=0.000647761
.ENDS
.END
